US07030150B2
Synthesis of 3-aminomethylbenzimidazole-4-aminobenzoic acid methyl ester
To a parr shaker under nitrogen atmosphere was charged 3-aminomethylbenzimidazole-4 nitro benzoic acid methylester (10 g, 0.037 mol, 1.0 eq) and 180 ml of methanol. To the slurry was charged 1 g of 10% Palladium on carbon This was placed under 55 psi hydrogen atmosphere and shaken for 16 hours. The reaction was removed under nitrogen atmosphere and filtered over a bed of celite under an atmosphere of nitrogen and the celite/Pd/c washed with 500 ml of methanol (degassed with nitrogen) and the combined organics concentrated to an off white solid. Yield 96%.

reactant | 3-aminomethylbenzimidazole-4 nitro benzoic acid methylester | 0.037 mol, 10 g, 1.0 eq | COC(C1=CC=C(C=C1)[N+](=O)[O-])=O.NCN1C=NC2=C1C=CC=C2
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 1 g | [Pd] | Pd
solvent | methanol | 180 ml | CO | CH4O
product | 3-aminomethylbenzimidazole 4-aminobenzoic acid methyl ester | Yield 96% | NCN1C=NC2=C1C=CC=C2.COC(C1=CC=C(C=C1)N)=O | InChI=1S/C8H9N3.C8H9NO2/c9-5-11-6-10-7-3-1-2-4-8(7)11;1-11-8(10)6-2-4-7(9)5-3-6/h1-4,6H,5,9H2;2-5H,9H2,1H3
